US04761312
An undercoating material was prepared as follows. A mixture of 20 parts gamma-methacryloxypropyltrimethoxysilane, 80 parts methyl methacrylate, 100 parts xylene, and 1.0 part azobisisobutyronitrile was mixed and then heated at 100° C. for 3 hours to give gamma-methacryloxypropyltrimethoxysilane-methyl methacrylate copolymer. Xylene was added to this copolymer to prepare an undercoating material having 40 percent solids and a viscosity of 150 cP.

reactant | gamma-methacryloxypropyltrimethoxysilane | C(C(=C)C)(=O)OCCC[Si](OC)(OC)OC | C10H20O5Si
reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | gamma-methacryloxypropyltrimethoxysilane methyl methacrylate | C(C(=C)C)(=O)OCCC[Si](OC)(OC)OC.C(C(=C)C)(=O)OC | InChI=1S/C10H20O5Si.C5H8O2/c1-9(2)10(11)15-7-6-8-16(12-3,13-4)14-5;1-4(2)5(6)7-3/h1,6-8H2,2-5H3;1H2,2-3H3
